US05242895
Preparation of methyl 6-[1-(N-methoxyimino)-ethyl]salicylate (Intermediate product No. 21)
1.2 g of methyl 6-acetyl salicylate, 1;3 g of methoxyamine hydrochloride and 1.5 g of potassium acetate were added to 30 ml of methanol, and were stirred for one night at room temperature. After completing the reaction, the reaction liquor was poured into water, and was made acetic with hydrochloric acid to extract the reaction product with ethyl acetate. The reaction product was washed with sodium hydrogencarbonate aqueous solution and water in sequence, and was dried to obtain a concentrated oily product. The product was then purified by column chromatography to obtain 1.15 g of the aimed compound (refractive index=1.5423) at a yield of 83%.

reactant | methoxyamine hydrochloride | 3 g | Cl.CON
reactant | potassium acetate | 1.5 g | C(C)(=O)[O-].[K+]
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | methyl 6-[1-(N-methoxyimino)-ethyl]salicylate | 1.15 g, yield of 83% | CON=C(C)C=1C=CC=C(C1C(=O)OC)O | C11H13NO4
